US06486190B1
A mixture of 5-chloro-2,4-dinitro-m-xylene (707 mg, 3.1 mmol), sodium azide (219 mg, 3.37 mmol) and N,N-dimethylformamide (10 mL) is heated at 80° C. for 45 minutes then cooled to room temperature, poured into ice/water and extracted with ethyl acetate (3×50 mL). The combined organic layers are dried (magnesium sulfate), filtered, and concentrated via rotary evaporation to provide 5-azido-2, 4-dinitro-m-xylene as a yellow/brown solid. (650 mg, 2.7 mmol), 10% palladium-on-carbon (100 mg) and 80% formic acid (20 mL) is heated to 80° C. for 30 minutes, cooled to room temperature, and filtered through a plug of silica gel (eluting with water). The filtrate is basified (˜pH 10) with 28% ammonium hydroxide and extracted with ethyl acetate (3×100 mL). The combined organic layers are dried (magnesium sulfate), filtered, and concentrated to afford 4,6-dimethyl-5-nitrobenzimidazole as a yellow oil.

reactant | 5-chloro-2,4-dinitro-m-xylene | 3.1 mmol, 707 mg | ClC=1C(=C(C(=C(C1)C)[N+](=O)[O-])C)[N+](=O)[O-] | C8H7ClN2O4
reactant | sodium azide | 3.37 mmol, 219 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-azido-2, 4-dinitro-m-xylene | N(=[N+]=[N-])C=1C(=C(C(=C(C1)C)[N+](=O)[O-])C)[N+](=O)[O-] | C8H7N5O4
